Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo ___ speaking female (and is 
with her daughter-in-law) with hx of DM, HTN, and hyperlipidemia 
who presented with mid-sternal chest pain. She also reports that 
this AM she had pain in the back of her head, so she took her 
blood pressure and it was 202/120. She has a baseline of 130-150 
SBP. She called EMS, and the pain resolved around the time they 
gave her ASA. It lasted for about 2 hours. She was pain free in 
at arrival to hospital. She denies nausea, dizziness, vision 
changes, palpitaions, jaw or arm pain, orthopnea, PND, and DOE, 
but does report SOB earlier today with CP. Reports starting 
Cipro on ___ due to a cystitis and stopped her lasix while on 
Cipro, but has been taking her other medications. Denies 
dysurian but stated that she had increased frequency/urgency 
before starting the cipro. She also reports hx of similar event 
last year, when she did not have a heart attack. She also 
reports a negative nuclear stress test at that time.  
  
In ER VS: 97.4, 64, 145/70, 18, 98%4L. She was given tylenol 
___ x 1. She had an EKG showing- normal axis, NSR, poor R wave 
progression, TWI in III, AVF, peaked TWaves in precodial leads  

 
Past Medical History:
PMHx:  
Diabetes Mellitus, type II, diet controlled  
Hypertension  
Hyperlipidemia  
Lower Extremity edema R>L  
Hypothyroidism  

PSHx:  
Hysterectomy  
Cataract removal  

 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: 96.2, 130/60, 62, 18, 97%RA, 83.2kg  
GEN: NAD, resting in bed, awake and alert  
HEENT: MMM, clear OP, no SI  
NECK: no LAD, supple, no bruits, no masses  
CV: RRR, SEM soft at Rt 2ICS, pulses 2+ in UE and ___  
Chest: CTA B, no wheezes, crackles, or rhonchi  
ABD: overwt, soft, +BS, NT, no HSM  
EXT: no C/C, but 1+ pitting edema R>L  
Skin: no rashes, warm  
NEURO: CNII-XII grossly intact, strength ___, reflexes 1+ UE and 
___  

 
Pertinent Results:
labs-

___ 09:32AM BLOOD WBC-6.3 RBC-4.30 Hgb-11.3* Hct-35.3* 
MCV-82 MCH-26.3* MCHC-32.1 RDW-13.6 Plt ___
___ 06:55AM BLOOD WBC-10.7# RBC-4.25 Hgb-11.3* Hct-34.0* 
MCV-80* MCH-26.7* MCHC-33.4 RDW-14.0 Plt ___
___ 09:32AM BLOOD Neuts-67.5 ___ Monos-3.3 Eos-0.3 
Baso-0.2
___ 09:32AM BLOOD ___ PTT-28.0 ___
___ 09:32AM BLOOD Glucose-111* UreaN-16 Creat-0.9 Na-143 
K-3.8 Cl-106 HCO3-29 AnGap-12
___ 06:55AM BLOOD Glucose-119* UreaN-15 Creat-0.9 Na-140 
K-4.0 Cl-104 HCO3-28 AnGap-12
___ 09:32AM BLOOD CK(CPK)-175*
___ 07:25PM BLOOD CK(CPK)-142*
___ 01:30AM BLOOD CK(CPK)-129
___ 09:32AM BLOOD CK-MB-7
___:32AM BLOOD cTropnT-<0.01
___ 07:25PM BLOOD CK-MB-6 cTropnT-<0.01
___ 01:30AM BLOOD CK-MB-6 cTropnT-<0.01
___ 09:32AM BLOOD Iron-65
___ 06:55AM BLOOD Calcium-9.0 Phos-2.5* Mg-1.7
___ 09:32AM BLOOD calTIBC-356 VitB12-355 Folate-14.2 
Ferritn-25 TRF-274
___ 09:32AM BLOOD TSH-0.75

Studies-CXR PA and L ___
FINDINGS: Lung volumes are low with bibasilar atelectasis. There 
is mild 
bronchovascular crowding and mild pulmonary vascular 
indistinctness centrally. No consolidation or overt pulmonary 
edema identified. There is mild tortuosity of the thoracic 
aorta. The cardiac silhouette is within normal limits for size. 
No effusion or pneumothorax is seen. Extensive degenerative 
disease is noted throughout the thoracic spine. 
  
IMPRESSION: Mild central vascular congestion with no overt edema 
or pneumonia is seen. 

 
Brief Hospital Course:
___ yo F with hx of DMII and HTN admitted after chest pain 
episode this AM with SBP 202 at home that improved with 
improvement of blood pressure. Possible ACS, however, pain 
lasted for about 2 hours, and EKGs were without ST changes, and 
patient had three sets of negative cardiac biomarkers. Pain was 
similar to episodes last year- also related to HTN per patient 
and she had negative stress test per pt and family. Patient was 
monitored overnight on telemetry without event and had no chest 
pain while in the hospital. Her systolic blood pressure was 
130-150. She was continued on aspirin 325mg and Lipitor 10mg.

It was unclear why her BP had been elevated. ___ have been due 
to recent worsening arthritis pain in her right shoulder or due 
to recently stopping her Lasix. Her Lasix was restarted. She was 
continued on her Isosorbide mononitrate and lisinopril. Before 
discharge her PCP was contacted and it was learned that her last 
echo in ___ showed features of asymmetric LVH with partial LVOT 
obstruction. However, no other features of HOCM. Due to this and 
her recent elevated BP, she was started on Verapamil ER. Her BP 
will be monitored by her PCP, who may need to increase her dose. 
  

Her DMII was well controlled, and she did not require insulin. 
For her hypothyroidism she was continued on Synthroid with a 
normal TSH of 0.75.

For her recent UTI she was continue on her Cipro 250 BID and was 
on day 5 of a 7 day course on discharge.  

For her shoulder and low back pain, which per pt were chronic 
issues, she was treated with tylenol and lidocaine patches. 

It was also noted that she had anemia on admission with hct of 
35.3. Etiology was unclear. Iron studies were normal, as were 
TSH, B12, and folate. She may need further monitoring as an out 
patient.  

She will have follow up with her PCP, ___ ___. She may need further cardiac evaluation in the future 
as an out-patient due to her septal hypertrophy on her last 
echo. 
 
Medications on Admission:
Lasix 40 mg  
Celebrex ___ mg  
Naproxen PRN  
Tylenol ___ mg  
Potassium ?? dose  
Cipro 250 BID, Started ___  
Ambien 10mg  
Lisinopril 20mg  
Nasonex ___ IN spray  
Isosorbide mononitrate BID 30mg  
Levothryoxine 88mcg  
Lipitor 10mg  
Lipram ___  
Lipoderm 5%(700mg)  
ASA 81mg  

 
Discharge Medications:
1. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 2 days: continue for 2 more days.
Disp:*4 Tablet(s)* Refills:*0*
2. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
3. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily) as 
needed for shoulder pain: leave on for 12 hours, then take off 
for 12 hours, apply to lower back for pain.
Disp:*30 Adhesive Patch, Medicated(s)* Refills:*0*
4. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Isosorbide Mononitrate 10 mg Tablet Sig: Three (3) Tablet PO 
BID (2 times a day): for blood pressure.
Disp:*180 Tablet(s)* Refills:*2*
7. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
for blood pressure.  
8. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*2*
9. Verapamil 120 mg Tablet Sig: One (1) Tablet PO Q24H (every 24 
hours): new medication for blood pressure.
Disp:*30 Tablet(s)* Refills:*2*
10. Levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertension with Chest Pain
Diabetes Mellitus, Type II
Cystitis

 
Discharge Condition:
Hemodynamically stable, afebrile, amublatory.

 
Discharge Instructions:
You were admitted to ___ due to chest pain. Your chest pain 
was likely from your elevated blood pressure. You did not have a 
heart attack. Your heart was monitored overnight. You will need 
to see you primary care doctor after you leave the hospital and 
you may need to see a Cardiologist for your heart. 

The following changes were made to your medications:
You were restarted on your lasix (furosemide).
You were started on Verapamil to better control your blood 
pressure.
Your other medications were all continued as before.

Please keep your follow up appointments.

If you have chest pain, elevated blood pressure with headache or 
vision changes, shortness of breath, or other concerning 
symptoms please call your doctor or go to the ER.
 
Followup Instructions:
___